US05821239
4-Benzylamino-3-pyridinol N,N-diethylcarbamate
4-Amino-3-pyridinol N,N-diethylcarbamate (2.09 g) was refluxed overnight in 100 mL of benzene containing benzaldehyde (1.50 g) and Et3N (2.0 g). At the end of this time the reaction mixture was concentrated under reduced pressure and the residue was purified by flash chromatography to give, after concentration of the product-containing fractions, 1.91 g of chromatographically pure product. This was combined with the product of another run (total 4.20 g) and dissolved in MeOH (50 mL). NaBH4 (0.37 g) was added in portions and after 30 minutes the reaction mixture was distributed between water and ethyl acetate. The organic phase was dried, concentrated and purified by flash chromatography. The product-containing fractions were concentrated and the residue was recrystallized from ethyl acetate to give 1.85 g of analytically pure product, m.p. 71°-73° C.

reactant | 4-Amino-3-pyridinol N,N-diethylcarbamate | 2.09 g | C(C)N(C(=O)OC=1C=NC=CC1N)CC | C10H15N3O2
reactant | benzaldehyde | 1.50 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | Et3N | 2.0 g | CCN(CC)CC | C6H15N
reactant | NaBH4 | 0.37 g | [BH4-].[Na+]
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
solvent | MeOH | 50 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-Benzylamino-3-pyridinol N,N-diethylcarbamate | C(C)N(C(=O)OC=1C=NC=CC1NCC1=CC=CC=C1)CC | C17H21N3O2
